US07199120B2
A solution of N-cyclopropyl-4-[2-(2-fluoro-4-pyridinyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinamine (206 mg, 0.595 mmol) in isopropylamine (3 mL, 35.2 mmol) was heated at 150° C. in a steel bomb for 16 hours. The excess isopropylamine was removed under a stream of nitrogen. The crude material was triturated with ether to provide N-cyclopropyl-4-{2-[2-(isopropylamino)-4-pyridinyl]pyrazolo[1,5-a]pyridin-3-yl}-2-pyrimidinamine (185 mg, 80%) as a tan solid. 1H NMR (CDCl3) δ 8.60 (d, 1H), 8.51 (d, 1H), 8.14 (m, 2H), 7.32 (t, 1H), 6.93 (t, 1H), 6.80 (d, 1H), 6.62 (s, 1H), 6.55 (d, 1H), 5.62 (br, 1H), 4.60 (d, 1H), 3.87 (m, 1H), 2.85 (m, 1H), 1.29 (d, 3H), 1.22 (d, 3H), 0.86 (m, 2H), 0.63 (m, 2H); MS m/z 386 (M+1).

reactant | N-cyclopropyl-4-[2-(2-fluoro-4-pyridinyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinamine | 0.595 mmol, 206 mg | C1(CC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C2=CC(=NC=C2)F | C19H15FN6
reactant | isopropylamine | 35.2 mmol, 3 mL | C(C)(C)N | C3H9N
product | N-cyclopropyl-4-{2-[2-(isopropylamino)-4-pyridinyl]pyrazolo[1,5-a]pyridin-3-yl}-2-pyrimidinamine | 185 mg, 80% | C1(CC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C2=CC(=NC=C2)NC(C)C | C22H23N7
